US05167949
c) 4-Amino-2-(methoxymethoxymethyl)pteridine
Obtained using the procedure described in section c of Example 2, starting with 12.0 g (0.10 mole) of 3-amino-2-pyrazinecarbonitrile and 18.0 g (0.15 mole) of 2-(methoxymethoxy)acetamidine in 400 ml of absolute ethanol. Refluxing time: 4 hours. Yld: 15.8 g (71%), m.p. 129°-131° C. (ethanol).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.10 mole, 12.0 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(methoxymethoxy)acetamidine | 0.15 mole, 18.0 g | COCOCC(=N)N | C4H10N2O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-Amino-2-(methoxymethoxymethyl)pteridine | NC1=NC(=NC2=NC=CN=C12)COCOC | C9H11N5O2
